US06660075B2
Modification of Black with N-dodecylmaleic Acid Amide
2 g maleic acid amide N-dodecylmaleic acid amide are dissolved in 150 ml toluene and compounded with 10 g black (FW 1 or Printex Alpha). The suspension is boiled four hours under reflux and then drawn off, washed with acetone and dried eight hours in a drying oven at 105° C. The resulting black carries dodecyl groups.

reactant | maleic acid amide N-dodecylmaleic acid amide | 2 g | C(CCCCCCCCCCC)NC(\C=C/C(=O)O)=O.C(\C=C/C(=O)O)(=O)N
reactant | Printex | C | CH4
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-dodecylmaleic Acid Amide | C(CCCCCCCCCCC)NC(\C=C/C(=O)O)=O | C16H29NO3
